US08193236B2
(5-Bromo-2-methyl-benzofuran-3-yl)-acetic acid ethyl ester
A mixture of 5-bromo-2-methyl-benzofuran-3-one (6.8 g, 29.9 mmol) and (triphenyl-phosphanylidene)-acetic acid ethyl ester (17.4 g, 44.9 mmol) in anhydrous toluene is heated for 40 h at 120° C. under an argon atmosphere. After cooling to room temperature the volatiles are removed by rotary evaporation. The residue is purified by flash column chromatography (silica gel, gradient of cyclohexane/EtOAc 100:0 to 90:10) to afford a mixture of two regioisomeric products. The product mixture (7.1 g, 31.3 mmol) is dissolved in a 1.25 M solution of HCl in ethanol and heated at reflux for 1 h. After cooling to room temperature the solvent is removed by rotary evaporation to yield the title compound as a pale yellow oil (6.9 g, 23.2 mmol, 78%). 1H NMR (400 MHz, CDCl3, 298 K): δ=7.59 (d, J=2.0 Hz, 1H), 7.31-7.22 (m, 2H), 4.15 (q, J=7.1 Hz, 2H), 3.54 (s, 2H), 2.42 (s, 3H), 1.25 (t, J=7.1 Hz, 3H). MS (ES+): 297 (M(C13H1379BrO3)+H)+.

reactant | 5-bromo-2-methyl-benzofuran-3-one | 29.9 mmol, 6.8 g | BrC=1C=CC2=C(C(C(O2)C)=O)C1 | C9H7BrO2
reactant | (triphenyl-phosphanylidene)-acetic acid ethyl ester | 44.9 mmol, 17.4 g | C(C)OC(C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C22H21O2P
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | HCl | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | (5-Bromo-2-methyl-benzofuran-3-yl)-acetic acid ethyl ester | 23.2 mmol, 6.9 g, 78% | C(C)OC(CC1=C(OC2=C1C=C(C=C2)Br)C)=O | C13H13BrO3
